US04863959
A stirred mixture of 30 g of 4-amino-3-bromo-2,5-difluorobenzonitrile, 40 g of Raney nickel and 450 mL of 95-97% HCOOH is heated at 75°-85° C. for 1 hour. The hot solution is filtered through diatomaceous earth filter and the cake washed with 2×200 ml of CH2Cl2. The total filtrate is stripped in vacuo and the residue treated with excess saturated NaHCO3 and 500 mL of CH2Cl2. Further extraction with 2×200 mL of CH2Cl2 is followed by washing the CH2Cl2 extracts with saturated NaHCO3, 2×H2O (200 mL each), drying with Na2SO4 and evaporating in vacuo to furnish 28.25 g of crude 4-amino-3-bromo-2,5-difluorobenzaldehyde. The crude product is purified by dry-column chromatography on silica gel using CH2Cl2 as eluent to give 20.15 g (66% yield), m.p. 132°-133° C., of the title compound.

reactant | 4-amino-3-bromo-2,5-difluorobenzonitrile | 30 g | NC1=C(C(=C(C#N)C=C1F)F)Br | C7H3BrF2N2
reactant | HCOOH | 450 mL | C(=O)O | CH2O2
catalyst | Raney nickel | 40 g | [Ni] | Ni
product | 4-amino-3-bromo-2,5-difluorobenzaldehyde | 28.25 g, 66% yield | NC1=C(C(=C(C=O)C=C1F)F)Br | C7H4BrF2NO
